US04229204
Preparation of 2-[3-(3-Trifluoromethylphenyl)-5-Isoxazolyl]Benzoic Acid
A solution of 6.20 g of methyl 2-[3-(3-trifluoromethylphenyl)-5-isoxazolyl]benzoate, 75 ml. of acetic acid, and 50 ml. of concentrated HCl was held at reflux for 4 hours, cooled, and poured into 450 ml. of cold water. The resultant solid was recrystallized from CH3CN to give 3.87 g of solid, mp 176°-177° C.

reactant | methyl 2-[3-(3-trifluoromethylphenyl)-5-isoxazolyl]benzoate | 6.20 g | FC(C=1C=C(C=CC1)C1=NOC(=C1)C1=C(C(=O)OC)C=CC=C1)(F)F | C18H12F3NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 2-[3-(3-Trifluoromethylphenyl)-5-Isoxazolyl]Benzoic Acid | 3.87 g | FC(C=1C=C(C=CC1)C1=NOC(=C1)C1=C(C(=O)O)C=CC=C1)(F)F | C17H10F3NO3
